US20010041802A1
methyl 5-nitro-2-(2-methoxy-6-methoxymethoxyphenyl)-benzoate
A solution of 1-methoxy-3-methoxymethoxy benzene (3.62 g., 21.55 mmole), prepared as described in J. Med. Chem. 1995, 38, 1437-1445, in THF (15 mL) at −30° C. was treated with n-butyllithium (8.28 ml. of 2.5M in hexane, 20.69 mmole), stirred for 1 hour at 25° C., cooled to 0° C., treated with anhydrous zinc chloride beads (3.5 g, 25.67 mmole), stirred for 2 hours at 25° C., treated with a solution of methyl-2-bromo-5-nitrobenzoate (5.0 g, 19.23 mmol) in THF (20 mL) and bis(triphenylphosphine)palladium dichloride (600 mg), stirred it 65° C. for 15 hours, cooled, and treated with chloroform and aqueous KHCO3. The precipitated zinc salts were filtered, and the water layer was removed, and the organic layer dried over (Na2SO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 8% ethyl acetate in dichloromethane to provide the desired product. MS (ESI(−)Q1MS) m/z 346 (M-H)−.

reactant | 1-methoxy-3-methoxymethoxy benzene | 21.55 mmole, 3.62 g | COC1=CC(=CC=C1)OCOC | C9H12O3
reactant | n-butyllithium | 20.69 mmole, 2.5M, 8.28 ml | C(CCC)[Li]
reactant | methyl-2-bromo-5-nitrobenzoate | 19.23 mmol, 5.0 g | COC(C1=C(C=CC(=C1)[N+](=O)[O-])Br)=O | C8H6BrNO4
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | bis(triphenylphosphine)palladium dichloride | 600 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | methyl 5-nitro-2-(2-methoxy-6-methoxymethoxyphenyl)-benzoate | [N+](=O)([O-])C=1C=CC(=C(C(=O)OC)C1)C1=C(C=CC=C1OCOC)OC | C17H17NO7
